US08168794B2
Method 1 was followed using cis(+/−)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)piperidin-3-ylcarbamate and 4-chloro-3-nitropyridine yielding cis(+/−)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-1-(3-nitropyridin-4-yl)-piperidin-3-ylcarbamate. LCMS (m/z): 467.0 (MH+); LC Rt=4.02 min.

reactant | cis(+/−)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)piperidin-3-ylcarbamate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@@H](CNC1)NC(OC(C)(C)C)=O | C17H36N2O3Si
reactant | 4-chloro-3-nitropyridine | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
product | cis(+/−)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-1-(3-nitropyridin-4-yl)-piperidin-3-ylcarbamate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@@H](CN(C1)C1=C(C=NC=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C22H38N4O5Si
